US06365598B1
(R)-1-(1H-Pyrrolo[2,3-f]isoquinolin-1-yl)-2-propanol was prepared according to the method described in Example 1 using 1H-pyrrolo[2,3-f]isoquinoline (Farmaco, 1989, 44(12), 1141-55) and (R)-propylene oxide to give 0.77 g (71%) of the product as a white solid. A recrystallised sample [cyclohexane-ethanol (4:1)] gave mp 169-170° C.; Found: C, 74.09; H, 6.28; N, 12.27%. C14H14N2O requires C, 74.31; H, 6.24; N, 12.37%.

reactant | 1H-pyrrolo[2,3-f]isoquinoline | N1C=CC=2C1=C1C=CN=CC1=CC2 | C11H8N2
reactant | (R)-propylene oxide | C1[C@@H](C)O1 | C3H6O
product | (R)-1-(1H-Pyrrolo[2,3-f]isoquinolin-1-yl)-2-propanol | N1(C=CC=2C1=C1C=CN=CC1=CC2)C[C@@H](C)O | C14H14N2O
